US05656648
A) 1-(2,6-Dimethoxy-4-methylphenyl)-2-chloro-1-ethanone
7.61 g of 3,5-dimethoxytoluene and 6.10 g of tetramethylethylenediamine are dissolved under nitrogen in 150 ml of hexane. The solution is cooled to 0° C., 32.8 ml of 1.6 M butyllithium in hexane are added and the mixture is stirred at 10° C. for 20 minutes and then at 20° C. for 1 hour. To the lithium derivative cooled to -10° C., a solution, cooled to 0° C., of 6.13 g of N-methoxy-N-methylchloroacetamide in 50 ml of THF is added in the course of 20 minutes. The reaction mixture is left for one hour at a temperature of between 0° and 5° C. and for one hour at 20° C., and then poured into 100 ml of water. The resulting mixture is extracted with twice 300 ml of diethyl ether, the ether phases are washed with saturated sodium chloride solution, and the organic phases are dried over magnesium sulphate, filtered and concentrated under vacuum. The residue is chromatographed on silica, eluting with a DCM/hexane (50:50; v/v) mixture. Concentration of the pure fractions yields 1.6 g of the expected product; m.p. 82°-84° C.

reactant | 3,5-dimethoxytoluene | 7.61 g | COC=1C=C(C=C(C1)OC)C | C9H12O2
reactant | tetramethylethylenediamine | 6.10 g | CN(CCN(C)C)C | C6H16N2
reactant | butyllithium | 1.6 M, 32.8 ml | C(CCC)[Li]
reactant | lithium | [Li] | Li
reactant | N-methoxy-N-methylchloroacetamide | 6.13 g | CON(C(CCl)=O)C | C4H8ClNO2
solvent | hexane | 150 ml | CCCCCC | C6H14
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | water | 100 ml | O | H2O
product | 1-(2,6-Dimethoxy-4-methylphenyl)-2-chloro-1-ethanone | 1.6 g | COC1=C(C(=CC(=C1)C)OC)C(CCl)=O | C11H13ClO3
